US05753657
The procedure is performed as in Example 21, but starting with 1 g of 10-(3-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 150 ml of dimethylformamide, 5 ml of acetic acid and 0.1 g of 10% palladium on charcoal. 0.38 g of 10-(3-pyridylmethyl)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one is obtained, in the form of an off-white solid melting above 260° C. (Analysis % calculated C: 72.60, H: 4.49, N: 17.82, O: 5.09, % found C: 72.3, H: 4.8, N: 17.8, O: 5.4).

reactant | 10-(3-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | N1=CC(=CC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H12N4O
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 10-(3-pyridylmethyl)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 0.38 g | N1=CC(=CC=C1)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H14N4O
